US08030332B2
Preparation of 4-(3-chloropyridin-2-yl)-3,4-dihydro-2H-1,4-benzoxazine (1-1)
To a solution of 3,4-dihydro-2H-1,4-benzoxazine (198 mg, 1-47 mmol) in dry dioxane (3 mL) was added 60% sodium hydride/mineral oil (90 mg, 2.25 mmol) and let stir at ambient temperature for 15 min. Then 2,3-dichloropyridine (264 mg, 1.78 mmol) was added and the mixture was warm to 80 C. Over 24 hours periodically added small portions (˜10 mg) of NaH and another 90 mg of 2,3-dichloropyridine until all of the benzoxazine was gone. Cooled and diluted with ethyl acetate, neutralized with acetic acid and then washed with NaHCO3 solution, followed with water. The organic layer was dried over anhydrous sodium sulfate, filtered, and the solvent evaporated. This residue was purified by chromatography on silica gel eluting with a 10-15% acetone/hexane gradient to give the title compound as a viscous oil which slowly solidified (168 mg, 46% yield). 1H-NMR (500 MHz, CDCl3): δ 8.35 (1H, d, J=4.6 Hz), 7.74 (1H, d, J=8.1 Hz), 7.05 (1H, dd, J=4.7, 8.0 Hz), 6.90 (1H, d, J=7.4 Hz), 6.83 (1H, t, J=7.3 Hz), 6.75 (1H, t, J=7.3 Hz), 6.55 (1H, d, J=7.8 Hz), 4.39 (2H, t, J=4.3), 3.84 (2H, t, J=4.Hz). m/e (m+1): 247.0

reactant | 3,4-dihydro-2H-1,4-benzoxazine | 1-47 mmol, 198 mg | O1CCNC2=C1C=CC=C2 | C8H9NO
reactant | sodium hydride | [H-].[Na+]
reactant | 2,3-dichloropyridine | 1.78 mmol, 264 mg | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | NaH | ˜10 mg | [H-].[Na+]
reactant | 2,3-dichloropyridine | 90 mg | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | benzoxazine | O1NC=CC2=C1C=CC=C2 | C8H7NO
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(3-chloropyridin-2-yl)-3,4-dihydro-2H-1,4-benzoxazine | 46% yield | ClC=1C(=NC=CC1)N1CCOC2=C1C=CC=C2 | C13H11ClN2O
